US07718648B2
Into a 50-mL single-necked round-bottom flask was added 1,2-dimethoxy-ethane (10 mL). The solvent was purged with nitrogen, then tetrakis(triphenylphosphine)-palladium(0) (80.7 mg, 0.07 mmol) and (5-chloro-2-iodo-phenyl)-(2,6-difluoro-phenyl)-methanone (528 mg, 1.40 mmol) were added. The mixture was stirred under an atmosphere of nitrogen for 15 minutes, then (5-{[(tert-butoxycarbonyl)amino]methyl}-2-chloropyridin-4-yl)boronic acid (600.0 mg, 2.09 mmol) and 2.00 M sodium carbonate in water (1.40 mL) were added and the mixture was heated to reflux and allowed to stir 5 hours. The reaction was then cooled to room temperature and allowed to sit overnight. The reaction was diluted with methylene chloride (30 mL) and then transferred to a separatory funnel and was washed with water (2×30 mL). The organic portion was dried over sodium sulfate, filtered, and concentrated to provide the crude product as an orange oil. The crude product was purified by column chromatography on silica gel (elution gradient from dichloromethane to 15% ethyl acetate/dichloromethane) to yield 165 mg (24%) tert-butyl({6-chloro-4-[4-chloro-2-(2,6-difluorobenzoyl)phenyl]pyridin-3-yl}methyl)carbamate as an amber glass/solid. The product structure was confirmed by NMR and MS.

reactant | 1,2-dimethoxy-ethane | 10 mL | COCCOC | C4H10O2
reactant | (5-chloro-2-iodo-phenyl)-(2,6-difluoro-phenyl)-methanone | 1.40 mmol, 528 mg | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC=C1F)F)I | C13H6ClF2IO
reactant | (5-{[(tert-butoxycarbonyl)amino]methyl}-2-chloropyridin-4-yl)boronic acid | 2.09 mmol, 600.0 mg | C(C)(C)(C)OC(=O)NCC=1C(=CC(=NC1)Cl)B(O)O | C11H16BClN2O4
reactant | sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.40 mL | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.07 mmol, 80.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl({6-chloro-4-[4-chloro-2-(2,6-difluorobenzoyl)phenyl]pyridin-3-yl}methyl)carbamate | 165 mg, 24% | C(C)(C)(C)OC(NCC=1C=NC(=CC1C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1F)F)=O)Cl)=O | C24H20Cl2F2N2O3
